US05834261
Geotrichum candidum (ATCC 34614) was cultured according to the method of Buisson and Azerad (Tet. Lett. 27, 2631-2634 (1986), herein incorporated by reference) in one liter of a medium of glucose (30 grams), KH2PO4 (1 gram), K2HPO4 (2 grams), corn steep liquor (10 grams) MgSO4.7H20 (0.5 gram), NaNO3 (2 grams), FeSO4.7H20 (0.02 gram), and KCl (0.5 gram) with rotary shaking at 25° C. Two grams of 2-ethyl-3-ketobutyramide was dissolved in 2 ml of 95% ethanol, the resulting solution was added to the culture, and shaking was resumed. The reaction was followed by TLC (staining with anisaldehyde) to monitor the consumption of starting material and the production of product alcohol. After 48-72 hours the reaction was judged complete, and the reaction was terminated by removing from the shaker and adding 20-30 grams of Celite. The resulting suspension was suction filtered through a pad of Celite and the clear yellow filtrate was extracted with ethyl acetate (4×200 ml). The extracts were combined, dried over MgSO4, filtered, and rotary evaporated to leave 1 gram of (2S,3S)-2 ethyl-3-hydroxybutyramide as a yellowish solid.

reactant | glucose | 30 grams | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | 1 gram | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | 2 grams | OP(=O)([O-])[O-].[K+].[K+]
reactant | MgSO4 | 10 grams | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KCl | 0.5 gram | [Cl-].[K+]
reactant | 2-ethyl-3-ketobutyramide | Two grams | C(C)C(C(=O)N)C(C)=O | C6H11NO2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2S,3S)-2 ethyl-3-hydroxybutyramide | 1 gram | C(C)[C@H](C(=O)N)[C@H](C)O | C6H13NO2
